US04270946
Preparation of 2-(3-chlorophenoxy)N-(4-methylphenyl)nicotinamide (Compound 25)
In the same manner as in Example 1(b), 1.1 grams (0.01 mole) 2(3-chlorophenoxy) nicotinoyl chloride, 1.0 grams (0.01 mole) 4-methylaniline, 1.0 grams (0.01 mole) triethylamine and 125 milliliters toluene were combined to yield 2.4 grams (70.9% of theoretical yield) of the desired product, m.p. 140°-143° C. The structure was confirmed by mass spectrometry.

reactant | 2(3-chlorophenoxy) nicotinoyl chloride | 0.01 mole, 1.1 grams | ClC=1C=C(OC2=C(C(=O)Cl)C=CC=N2)C=CC1 | C12H7Cl2NO2
reactant | 4-methylaniline | 0.01 mole, 1.0 grams | CC1=CC=C(N)C=C1 | C7H9N
reactant | triethylamine | 0.01 mole, 1.0 grams | C(C)N(CC)CC | C6H15N
solvent | toluene | 125 milliliters | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chlorophenoxy)N-(4-methylphenyl)nicotinamide | ClC=1C=C(OC2=C(C(=O)NC3=CC=C(C=C3)C)C=CC=N2)C=CC1 | C19H15ClN2O2
